US07834190B2
Production of (4S,5S)—N-cyclopropyl-2-isopropyl-4-benzyl-4,5-dihydro-1,3-oxazole-5-carboxamide
(2S,3R)-3-Benzyl-2-oxiranecarboxylic cyclopropylamide (50 mg) and isobutyronitrile (2 ml) were mixed, and the mixture was cooled to 5° C. Boron trifluoride diethyl ether complex (2.5 equivalents) was gradually added, and the mixture was stirred at 5 to 20° C. for 2 hours. A mixture solution of ethyl acetate (10 ml) and saturated aqueous solution of sodium hydrogencarbonate (5 ml) was kept cooled at 5° C., and the reaction mixture was gradually added thereinto dropwise. The aqueous layer was removed, and then the solvent was evaporated away under reduced pressure to obtain the title compound as a brown solid (63 mg, yield: 96%).

reactant | (2S,3R)-3-Benzyl-2-oxiranecarboxylic cyclopropylamide | 50 mg | C1(CC1)NC(=O)[C@H]1O[C@@H]1CC1=CC=CC=C1 | C13H15NO2
reactant | isobutyronitrile | 2 ml | C(C(C)C)#N | C4H7N
reactant | sodium hydrogencarbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (4S,5S)—N-cyclopropyl-2-isopropyl-4-benzyl-4,5-dihydro-1,3-oxazole-5-carboxamide | 63 mg, yield: 96% | C1(CC1)NC(=O)[C@@H]1[C@@H](N=C(O1)C(C)C)CC1=CC=CC=C1 | C17H22N2O2
